data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
4187,4790,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][C:12](=[O:13])[C:14](=[O+:15][C-:16]([CH3:17])[C:18]#[N:19])[C:20]([CH3:21])=[O:22]>>[CH2:1]1[C@H:2]2[C@@H:3]([N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10])[C:16]([CH3:17])([C:18]#[N:19])[O:15][C:14]2([C:12]([CH3:11])=[O:13])[C:20]([CH3:21])=[O:22],water,298.15,8.495619811079958,-46.2485314173035
4831,5513,[CH3:1][C:2]([CH3:3])=[C:4]([CH3:5])[CH3:6].[CH3:7][NH:8][C:9](=[O:10])[CH:11]=[N+:12]([CH3:13])[C-:14]([c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1)[c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1>>[CH3:1][C:2]1([CH3:3])[C:4]([CH3:5])([CH3:6])[C:14]([c:15]2[cH:16][cH:17][cH:18][cH:19][cH:20]2)([c:21]2[cH:22][cH:23][cH:24][cH:25][cH:26]2)[N:12]([CH3:13])[CH:11]1[C:9]([NH:8][CH3:7])=[O:10],water,298.15,29.31909292282075,-10.478750769455344
2116,2349,[CH3:13][NH:14][C:15](=[O:16])[CH:17]=[NH+:18][CH-:19][C:20](=[O:21])[NH:22][CH3:23].[CH3:1][C:2]1([CH3:3])[C:4]#[C:5][C:6]([Br:7])([Br:8])[CH2:9][CH2:10][CH2:11][CH2:12]1>>[CH3:1][C:2]1([CH3:3])[C:4]2=[C:5]([C:6]([Br:7])([Br:8])[CH2:9][CH2:10][CH2:11][CH2:12]1)[CH:19]([C:20](=[O:21])[NH:22][CH3:23])[NH:18][CH:17]2[C:15]([NH:14][CH3:13])=[O:16],water,298.15,13.259184076676256,-37.9321747713999
2354,2613,[CH3:1][O:2][C:3](=[O:4])[C:5]1([CH3:6])[C:7]#[C:8][C:9]([c:10]2[cH:11][cH:12][cH:13][cH:14][cH:15]2)([c:16]2[cH:17][cH:18][cH:19][cH:20][cH:21]2)[CH2:22][CH2:23][CH2:24][CH2:25]1.[CH3:26][C:27]([C:28]#[N:29])=[N+:30]([CH3:31])[N-:32][C:33]#[N:34]>>[CH3:1][O:2][C:3](=[O:4])[C:5]1([CH3:6])[C:7]2=[C:8]([C:9]([c:10]3[cH:11][cH:12][cH:13][cH:14][cH:15]3)([c:16]3[cH:17][cH:18][cH:19][cH:20][cH:21]3)[CH2:22][CH2:23][CH2:24][CH2:25]1)[N:32]([C:33]#[N:34])[N:30]([CH3:31])[C:27]2([CH3:26])[C:28]#[N:29],water,298.15,11.340817225346816,-25.29984481225586
3402,3869,[CH3:1][C:2]([CH3:3])=[CH:4][CH:5]=[O:6].[CH3:7][O:8][C:9](=[O:10])[C:11]([CH3:12])=[N+:13]([CH3:14])[C-:15]([CH3:16])[CH3:17]>>[CH3:1][C:2]1([CH3:3])[CH:4]([CH:5]=[O:6])[C:15]([CH3:16])([CH3:17])[N:13]([CH3:14])[C:11]1([C:9]([O:8][CH3:7])=[O:10])[CH3:12],water,298.15,31.72780622484139,-11.311491499088357
3860,4418,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][O:12][C:13](=[O:14])[CH:15]=[O+:16][N-:17][C:18]([CH3:19])=[O:20]>>[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[C@H:6]2[C@:7]1([C:8]([NH2:9])=[O:10])[N:17]([C:18]([CH3:19])=[O:20])[O:16][CH:15]2[C:13]([O:12][CH3:11])=[O:14],water,298.15,12.379517767969036,-31.75733425620276
5063,5751,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][O:12][C:13](=[O:14])[C:15]#[N+:16][C-:17]([c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1)[c:24]1[cH:25][cH:26][cH:27][cH:28][cH:29]1>>[CH2:1]1[C@@H:2]2[C@H:3]([N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10])[C:17]([c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1)([c:24]1[cH:25][cH:26][cH:27][cH:28][cH:29]1)[N:16]=[C:15]2[C:13]([O:12][CH3:11])=[O:14],water,298.15,19.33188318233628,-32.65024273732308
5042,5730,[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14].[CH3:15][c-:16]1[c:17](=[O:18])[o:19][c:20](-[c:21]2[cH:22][cH:23][cH:24][cH:25][cH:26]2)[n+:27]1[CH3:28]>>[C:1]1(=[O:2])[C@:3]2([O:4][CH3:5])[C@:6]([O:7][CH3:8])([C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14])[C:16]1([CH3:15])[C:17](=[O:18])[O:19][C:20]2([c:21]2[cH:22][cH:23][cH:24][cH:25][cH:26]2)[N:27]1[CH3:28],water,298.15,23.807141504623136,10.616780336350232
4743,5418,[CH3:10][NH:11][C:12](=[O:13])[C-:14]([NH+:15]=[C:16]([C:17]#[N:18])[C:19]([CH3:20])=[O:21])[C:22](=[O:23])[NH:24][CH3:25].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]1([CH3:8])[CH2:9][C:14]([C:12]([NH:11][CH3:10])=[O:13])([C:22](=[O:23])[NH:24][CH3:25])[NH:15][C:16]1([C:17]#[N:18])[C:19]([CH3:20])=[O:21],water,298.15,17.10886442202436,-14.066952296380002
4797,5476,[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14].[CH3:15][CH-:16][N+:17]([CH3:18])=[C:19]([C:20]([CH3:21])=[O:22])[C:23]([CH3:24])=[O:25]>>[C:1]1(=[O:2])[C@:3]2([O:4][CH3:5])[C@:6]([O:7][CH3:8])([C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14])[CH:16]([CH3:15])[N:17]([CH3:18])[C:19]2([C:20]([CH3:21])=[O:22])[C:23]([CH3:24])=[O:25],water,298.15,42.36559988020317,14.049242775886318
2109,2342,[CH3:1][O:2][C:3](=[O:4])[C:5]1([c:6]2[cH:7][cH:8][cH:9][cH:10][cH:11]2)[C:12]#[C:13][C:14]([Cl:15])([Cl:16])[CH2:17][CH2:18][CH2:19][CH2:20]1.[CH3:21][C:22]#[N+:23][C-:24]([C:25]#[N:26])[C:27]([CH3:28])=[O:29]>>[CH3:1][O:2][C:3](=[O:4])[C:5]1([c:6]2[cH:7][cH:8][cH:9][cH:10][cH:11]2)[C:12]2=[C:13]([C:14]([Cl:15])([Cl:16])[CH2:17][CH2:18][CH2:19][CH2:20]1)[C:24]([C:25]#[N:26])([C:27]([CH3:28])=[O:29])[N:23]=[C:22]2[CH3:21],water,298.15,17.56861460616239,-43.24312012941879
